US05324743
B. 4-(4-Allyloxyphenoxy)benzoic Acid Methyl Ester
A mixture of 4-(4-hydroxyphenoxy)benzoic acid methyl ester (5.00 g, 20.5 retool), allyl iodide (3.79 g, 22.5 mmol), potassium carbonate (8.49 g, 61.5 mmol), and dimethylsulfoxide (10 mL) in 2-butanone (40 mL) was refluxed for 24 hours. The mixture was cooled to room temperature and diluted with ether. The resulting mixture was washed once with water and once with saturated sodium bicarbonate solution. The organic layer was dried (sodium sulfate), filtered, and concentrated in vacuo to provide 4.52 g (78%) of the title intermediate as a white solid: mp 75° C.; 1H--NMR (CDCl3) 7.99 (d, J=9 Hz, 2H), 7.03 (d, J=9 Hz, 2H), 6.95 (m, 4H), 6.08 (m, 1H), 5.46 (d, J=14 Hz, 1H), 5.31 (d, J=10 Hz, 1H), 4.55 (d, J=7 Hz, 2H), 3.92 (s, 3H).

reactant | 4-(4-hydroxyphenoxy)benzoic acid methyl ester | 5.00 g | COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O | C14H12O4
reactant | allyl iodide | 22.5 mmol, 3.79 g | C(C=C)I | C3H5I
reactant | potassium carbonate | 61.5 mmol, 8.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | 2-butanone | 40 mL | CC(CC)=O | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(4-Allyloxyphenoxy)benzoic Acid Methyl Ester | 4.52 g, 78% | COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)OCC=C)=O | C17H16O4
